US08071388B2
To a solution of 6-aminonaphthalene-2-sulfonic acid (2.23 g, 10 mmol) in 15 ml of H2O was added 2N NaOH (0.75 ml). The mixture was stirred for 5 min at RT and conc. H2SO4 (0.68 g, 6.9 mmol) was added to it dropwise at 0° C. 2 ml of iced H2O was added, followed by a solution of NaNO2 (1.04 g, 15 mmol) in 2 ml of H2O. After the solution was stirred at 0° C. for 2 h, the diazonium salt was removed by filtration and washed with cold water. The salt was then added in portions to a cold (<0° C.) solution of SnCl2 (4.9 g, 22 mmol) in 3.2 ml of conc. HCl and 1.8 ml of H2O. The mixture was stirred overnight. The solid was filtered and washed twice with water, dried under vacuum to give 1.84 g of 6-hydrazinylnaphthalene-2-sulfonic acid (77%), which was used directly for next step.

reactant | 6-aminonaphthalene-2-sulfonic acid | 10 mmol, 2.23 g | NC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)O | C10H9NO3S
reactant | NaOH | 2N, 0.75 ml | [OH-].[Na+]
reactant | H2SO4 | 6.9 mmol, 0.68 g | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 15 mmol, 1.04 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 22 mmol, 4.9 g | Cl[Sn]Cl
solvent | H2O | 15 ml | O | H2O
solvent | H2O | 2 ml | O | H2O
solvent | HCl | 3.2 ml | Cl | ClH
solvent | H2O | 1.8 ml | O | H2O
solvent | H2O | 2 ml | O | H2O
product | 6-hydrazinylnaphthalene-2-sulfonic acid | 1.84 g, 77% | N(N)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)O | C10H10N2O3S
